US07303858B2
2.0 g of methylmethacryilic acid, 9.0 g of t-butylacrylate, 1.0 g of maleic anhydride, 1.2 g of N-[(perfluorooctanesulfonyl)oxy]-norbornene-2,3-dicarboximide and 0.5 g of AIBN were dissolved in 50 g of acetone. The monomers were polymerized at 67° C. for 6 hours. After completion of the polymerization, the polymerized product was precipitated in water, filtered, and dried in a vacuum to give poly(methylmethacrylic acid-t-butylacrylate-maleic anhydride-N-[(perfluorooctanesulfonyl)oxy]-norbornene-2,3-dicarboximide) in a yield of 78%. The structure of the polymer was identified by 1H-NMR spectroscopy (FIG. 1).

reactant | t-butylacrylate | 9.0 g | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | maleic anhydride | 1.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | N-[(perfluorooctanesulfonyl)oxy]-norbornene-2,3-dicarboximide | 1.2 g | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)ON1C(=O)C=2C3CCC(C2C1=O)C3)F | C17H8F17NO5S
reactant | AIBN | 0.5 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | acetone | 50 g | CC(=O)C | C3H6O
product | methylmethacrylic acid t-butylacrylate maleic anhydride N-[(perfluorooctanesulfonyl)oxy]-norbornene-2,3-dicarboximide | yield of 78% | CC=C(C(=O)O)C.C(C)(C)(C)OC(C=C)=O.C1(\C=C/C(=O)O1)=O.FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)ON1C(=O)C=2C3CCC(C2C1=O)C3)F | InChI=1S/C17H8F17NO5S.C7H12O2.C5H8O2.C4H2O3/c18-10(19,12(22,23)14(26,27)16(30,31)32)11(20,21)13(24,25)15(28,29)17(33,34)41(38,39)40-35-8(36)6-4-1-2-5(3-4)7(6)9(35)37;1-5-6(8)9-7(2,3)4;1-3-4(2)5(6)7;5-3-1-2-4(6)7-3/h4-5H,1-3H2;5H,1H2,2-4H3;3H,1-2H3,(H,6,7);1-2H
